US08008327B2
Synthesis of 3-({[1-(4-Fluoro-phenyl)-1H-indazole-4-carbonyl]-amino}-methyl)-benzoic acid (12)
To a solution of 3-({[1-(4-fluoro-phenyl)-1H-indazole-4-carbonyl]-amino}-methyl)-benzoic acid methyl ester (430 mg, 1.0 mmol) in ethanol (15 mL) was added a 2 N solution of aqueous sodium hydroxide (3.0 mL, 6.0 mmol). The mixture was heated at 80° C. for 4 hours. The mixture was cooled and concentrated in vacuo to remove the ethanol and then added to a solution of 1 N aqueous HCl (30 mL). The white precipitate was collected by filtration and dried to afford the title compound as a white solid.

reactant | 3-({[1-(4-fluoro-phenyl)-1H-indazole-4-carbonyl]-amino}-methyl)-benzoic acid methyl ester | 1.0 mmol, 430 mg | COC(C1=CC(=CC=C1)CNC(=O)C=1C=2C=NN(C2C=CC1)C1=CC=C(C=C1)F)=O | C23H18FN3O3
reactant | sodium hydroxide | 6.0 mmol, 3.0 mL | [OH-].[Na+]
solvent | ethanol | 15 mL | C(C)O | C2H6O
product | 3-({[1-(4-Fluoro-phenyl)-1H-indazole-4-carbonyl]-amino}-methyl)-benzoic acid | FC1=CC=C(C=C1)N1N=CC=2C(=CC=CC12)C(=O)NCC=1C=C(C(=O)O)C=CC1 | C22H16FN3O3
